US08022062B2
4-(1-Hydroxy-1,3,3-trimethyl-butyl)-benzonitrile:
Dissolve 4-acetylbenzonitrile (1 g, 6.88 mmol) in diethyl ether/THF (1:1, 60 mL) and cool the solution to 0° C. Add 1M neopentylmagnesium chloride in diethyl ether (8.3 mL, 8.3 mmol) under nitrogen and stir the mixture at room temperature overnight. Add saturated aqueous NH4Cl and extract the mixture twice with EtOAc. Dry the combined organic extracts over MgSO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (19:1, 9:1) to give the desired intermediate (364 mg, 24%).

reactant | 4-acetylbenzonitrile | 6.88 mmol, 1 g | C(C)(=O)C1=CC=C(C#N)C=C1 | C9H7NO
reactant | neopentylmagnesium chloride | 1M | C(C(C)(C)C)[Mg]Cl
reactant | diethyl ether | 8.3 mmol, 8.3 mL | C(C)OCC | C4H10O
solvent | diethyl ether THF | 60 mL | C(C)OCC.C1CCOC1
product | 4-(1-Hydroxy-1,3,3-trimethyl-butyl)-benzonitrile | 364 mg, 24% | OC(CC(C)(C)C)(C)C1=CC=C(C#N)C=C1 | C14H19NO
